US06960601B2
Preparation of N-(4-chlorophenyl)-3-methylbutanimidamide
To a solution of 3-methylbutanenitrile (250 mg, 3.0 mmol) and AlCl3 (400 mg, 3.0 mmol) in toluene (6 mL) was added 4-chloroaniline (383 mg, 3.0 mmol). The resulting solution was stirred at reflux for 2 h, diluted with water, and extracted with EtOAc. The aqueous layer was neutralized with saturated NaHCO3 solution and extracted with EtOAc. The combined extracts were dried over MgSO4, filtered, and concentrated. The crude product (364 mg, 58% yield) was used for the next step without purification.

reactant | 3-methylbutanenitrile | 3.0 mmol, 250 mg | CC(CC#N)C | C5H9N
reactant | AlCl3 | 3.0 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-chloroaniline | 3.0 mmol, 383 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-(4-chlorophenyl)-3-methylbutanimidamide | 364 mg, 58% yield | ClC1=CC=C(C=C1)NC(CC(C)C)=N | C11H15ClN2
